US04385058
2-(3-Cyanopropyl)-4-dimethylaminomethylpyridine (1 g) in diethyl ether (15 ml) was added dropwise to a rapidly stirred suspension of lithium aluminium hydride (0.76 g) in ether (45 ml). The solution was stirred for 2.5 hours. Wet tetrahydrofuran, followed by 16% sodium hydroxide (1 ml) and then water was added and the mixture was filtered. The filtrate was evaporated to give 4-(4-dimethylaminomethyl-2-pyridyl)butylamine (1.02 g) as a clear oil.

reactant | 2-(3-Cyanopropyl)-4-dimethylaminomethylpyridine | 1 g | C(#N)CCCC1=NC=CC(=C1)CN(C)C | C12H17N3
reactant | lithium aluminium hydride | 0.76 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1 ml | [OH-].[Na+]
solvent | diethyl ether | 15 ml | C(C)OCC | C4H10O
solvent | ether | 45 ml | CCOCC | C4H10O
solvent | water | O | H2O
product | 4-(4-dimethylaminomethyl-2-pyridyl)butylamine | 1.02 g | CN(C)CC1=CC(=NC=C1)CCCCN | C12H21N3
